* D:\Downloads\VLSI\Report\SirsnoteRAM - Copy.asc
M1 N002 N003 0 N010 TestN l=10u w=20u
M2 VCC N002 N003 N001 TestP l=10u w=40u
M3 N003 N002 0 N007 TestN l=10u w=20u
M4 VCC N003 N002 N009 TestP l=10u w=40u
M5 BL_bar WL N003 0 TestN l=10u w=20u
M6 N002 WL BL 0 TestN l=10u w=20u
M7 VCC BL_bar BL_bar VCC TestP l=10u w=40u
M8 VCC BL BL VCC TestP l=10u w=40u
M9 VCC EN N015 N014 TestP l=10u w=40u
M10 N015 EN 0 N018 TestN l=10u w=20u
M11 VCC BL P001 VCC TestP l=10u w=40u
M12 P001 N015 A VCC TestP l=10u w=40u
M13 A EN P002 0 TestN l=10u w=20u
M14 P002 BL 0 0 TestN l=10u w=20u
M15 VCC EN2 N020 N019 TestP l=10u w=40u
M16 N020 EN2 0 N026 TestN l=10u w=20u
M17 VCC A P003 VCC TestP l=10u w=40u
M18 P003 N020 BL_bar VCC TestP l=10u w=40u
M19 BL_bar EN2 P004 0 TestN l=10u w=20u
M20 P004 A 0 0 TestN l=10u w=20u
M21 VCC W/R N005 N011 TestP l=10u w=40u
M22 N005 W/R 0 N016 TestN l=10u w=20u
M23 P005 W/R 0 0 TestN l=10u w=20u
M24 N013 CS P005 0 TestN l=10u w=20u
M25 VCC CS N013 VCC TestP l=10u w=40u
M26 VCC W/R N013 VCC TestP l=10u w=40u
M27 VCC N013 EN2 N012 TestP l=10u w=40u
M28 EN2 N013 0 N017 TestN l=10u w=20u
M29 P006 CS 0 0 TestN l=10u w=20u
M30 N006 N005 P006 0 TestN l=10u w=20u
M31 VCC N005 N006 VCC TestP l=10u w=40u
M32 VCC CS N006 VCC TestP l=10u w=40u
M33 VCC N006 EN N004 TestP l=10u w=40u
M34 EN N006 0 N008 TestN l=10u w=20u
V1 VCC 0 1.8
V2 CS 0 PULSE(0 1.8 10n 0 0 100n 10n)
V3 W/R 0 PULSE(0 1.8 20n 100p 100p 10n 20n)
V4 A 0 PULSE(0 1.8 1n 100p 100p 2n 5n)
M35 VCC N025 N022 N024 TestP l=10u w=40u
M36 VCC N025 N025 N023 TestP l=10u w=40u
M37 N025 BL_bar N027 0 TestN l=10u w=20u
M38 N022 BL N027 0 TestN l=10u w=20u
M39 N027 SE 0 0 TestN l=10u w=20u
M40 VCC N022 OUT N021 TestP l=10u w=40u
M41 OUT N022 0 N028 TestN l=10u w=20u
V5 SE 0 PULSE(0 1.8 1n 100p 100p 2n 5n)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Manupa\AppData\Local\LTspice\lib\cmp\standard.mos
.MODEL TestN NMOS KP=96.379u VTO=0.786 LAMBDA=0.01 TOX=21.2n GAMMA=0.5863 CGDO=402.41p CGSO=402.41p CGBO=361.44p
.MODEL TestP PMOS KP=96.379u VTO=-0.9056 LAMBDA=0.01 TOX=21.2n GAMMA=0.4863 CGDO=53.752p CGSO=53.752p CGBO=336.5p
.tran 100n
.backanno
.end
